US07960310B2
1.0 g (5.8 mmol) 1-azido-4-methyl-indane is treated with 4.54 g (17.3 mmol) triphenylphosphine in 26 ml THF and 1.4 ml H2O at room temperature overnight. Completion of the reaction is achieved by heating up the mixture for additional 2.5 hours. The reaction mixture is then cooled to room temperature and diluted with water. The pH is adjusted to 2 by adding cold (ca 0° C.) aqueous HCl (1M). After extraction with EtOAc the aqueous layer is separated, basified with NaOH (2M) and extracted into EtOAc. The organic layer is then dried (MgSO4) and concentrated in vacuo to give 4-methyl-indan-1-yl-amine as a light yellow liquid.

reactant | 1-azido-4-methyl-indane | 5.8 mmol, 1.0 g | N(=[N+]=[N-])C1CCC2=C(C=CC=C12)C | C10H11N3
reactant | triphenylphosphine | 17.3 mmol, 4.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HCl | 1M | Cl | ClH
solvent | THF | 26 ml | C1CCOC1 | C4H8O
solvent | H2O | 1.4 ml | O | H2O
product | 4-methyl-indan-1-yl-amine | CC1=C2CCC(C2=CC=C1)N | C10H13N
